US07572808B2
Preparation of 2-((2-(aminomethyl)-6-(trifluoromethyl)pyridin-3-yl)methyl)-7-(4-chlorophenyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one
To a solution of 3-((7-(4-chlorophenyl)-3-oxo-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-2(3H)-yl)methyl)-6-(trifluoromethyl)picolinonitrile (51 mg, 0.1 mmol) in formic acid (0.8 mL) and water (0.2 mL) was added platinum (IV) oxide (20 mg). The resulting suspension was stirred at 70° C. for 1 h. After cooling to room temperature, the reaction mixture was concentrated under reduced pressure. The residue was dissolved in EtOAc, washed with saturated aqueous Na2CO3, water, then saturated aqueous NaCl, dried over Na2SO4 and concentrated under reduced pressure. The crude product was purified using preparative reverse phase HPLC (Phenomenex Luna 5 μm C-18 21.2×100 mm column eluted with a linear gradient of 40% to 80% B over 8 min (A=0.1% trifluoroacetic acid, 90% water, 10% methanol and B=0.1% trifluoroacetic acid, 90% methanol, 10% water) with flow rate at 20 mL/min and UV detection at 220 nm). The desired fractions were concentrated under reduced pressure. The product was dissolved in EtOAc, washed with saturated aqueous NaHCO3 once, water twice, then saturated aqueous NaCl, dried over Na2SO4 and evaporated. The residue was dissolved in acetonitrile, frozen and lyophilized to afford 7.4 mg of the title compound as a yellow powder. HPLC/MS: retention time=2.26 min, [M+H]+=511.0.

reactant | 3-((7-(4-chlorophenyl)-3-oxo-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-2(3H)-yl)methyl)-6-(trifluoromethyl)picolinonitrile | 0.1 mmol, 51 mg | ClC1=CC=C(C=C1)C1=C(C=2N(C=C1)C(N(N2)CC=2C(=NC(=CC2)C(F)(F)F)C#N)=O)C2=CC=NC=C2 | C25H14ClF3N6O
solvent | formic acid | 0.8 mL | C(=O)O | CH2O2
solvent | water | 0.2 mL | O | H2O
catalyst | platinum (IV) oxide | 20 mg | [Pt](=O)=O
product | 2-((2-(aminomethyl)-6-(trifluoromethyl)pyridin-3-yl)methyl)-7-(4-chlorophenyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | 7.4 mg | NCC1=NC(=CC=C1CN1N=C2N(C=CC(=C2C2=CC=NC=C2)C2=CC=C(C=C2)Cl)C1=O)C(F)(F)F | C25H18ClF3N6O
